US04395418
(3S, 4R)-3-[(R)-1-Benzoyloxyethyl]-1-(1-methoxycarbonyl-2-methylprop-1-enyl)-4-methylthioazetidin-2-one
In 2 ml of tetrahydrofuran were dissolved (3S, 4R)-3-[(S)-1-hydroxyethyl]-1-(1-methoxycarbonyl-2-methylprop-1-enyl)-4-methylthioazetidin-2-one (105 mg, 0.38 mmole), triphenylphosphine (201 mg, 2 equivalents) and benzoic acid (94 mg, 2 equivalents). To the resulting solution was added little by little a solution of diethyl azodicarboxylate (134 mg, 2 equivalents) in tetrahydrofuran (1 ml) at 20° C. over 10 minutes and then the mixture was stirred at the same temperature for 1.5 hours. The solvent was then distilled off and the residue was dissolved in 3 ml of a 6:1 by volume mixture of benzene and ethyl acetate and left to stand in a refrigerator. The resulting precipitate was filtered off and the filtrate was subjected to thin layer chromatography developed with a 5:1 by volume mixture of benzene and ethyl acetate to afford 119 mg (yield 82%) of the desired product as an oil, containing a small amount of the 1'S-isomer.

reactant | (3S, 4R)-3-[(S)-1-hydroxyethyl]-1-(1-methoxycarbonyl-2-methylprop-1-enyl)-4-methylthioazetidin-2-one | 0.38 mmole, 105 mg | O[C@@H](C)[C@H]1C(N([C@@H]1SC)C(=C(C)C)C(=O)OC)=O | C12H19NO4S
reactant | triphenylphosphine | 201 mg, 2 equivalents | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | benzoic acid | 94 mg, 2 equivalents | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | diethyl azodicarboxylate | 134 mg, 2 equivalents | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | (3S, 4R)-3-[(R)-1-Benzoyloxyethyl]-1-(1-methoxycarbonyl-2-methylprop-1-enyl)-4-methylthioazetidin-2-one | 119 mg, yield 82% | C(C1=CC=CC=C1)(=O)O[C@H](C)[C@H]1C(N([C@@H]1SC)C(=C(C)C)C(=O)OC)=O | C19H23NO5S
